US08871756B2
3,3-Bis-azidomethyl-thietane 1,1-dioxide
To a solution of 3,3-bis(azidomethyl)thietane (2.5 g, 13.59 mmol) in the mixture of formic acid (5 mL) and dichloromethane (6 mL) was added hydrogen peroxide (9.2 g, 81.54 mmol) slowly at 0° C. After being warmed slowly to room temperature and stirred at room temperature overnight, the mixture was diluted with water (10 mL) and extracted with dichloromethane (15 mL×3). The combined organic layers were dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography to afford 2.8 g of the desired product as a white solid (yield of two steps was 96%).

reactant | 3,3-bis(azidomethyl)thietane | 13.59 mmol, 2.5 g | N(=[N+]=[N-])CC1(CSC1)CN=[N+]=[N-] | C5H8N6S
reactant | formic acid | 5 mL | C(=O)O | CH2O2
reactant | dichloromethane | 6 mL | ClCCl | CH2Cl2
reactant | hydrogen peroxide | 81.54 mmol, 9.2 g | OO | H2O2
reactant | water | 10 mL | O | H2O
product | 3,3-Bis-azidomethyl-thietane 1,1-dioxide | 2.8 g, 96% | N(=[N+]=[N-])CC1(CS(C1)(=O)=O)CN=[N+]=[N-] | C5H8N6O2S
